* C:\Users\Manuel Mollon\Dropbox\potencia\TP1\Ejercicio3\3b.asc
V1 Vl1 0 12
V2 N004 0 PULSE(0 12 0 1n 1n 5.56u 16.7u)
R1 N005 N004 470
R2 N006 N005 470
R3 Vgate N002 100
R4 Vl1 N001 1k
R5 Vo 0 100
Q1 N001 N006 0 0 BC547B
Q2 Vl1 N001 N002 0 BC547B
Q3 0 N001 N002 0 BC557B
D1 N003 Vo MUR460
C1 Vo 0 10µF
R6 Vl2 N003 2
L1 Vl1 Vl2 220µH
XU1 N003 Vgate 0 irf530n
.model D D
.lib C:\Users\Manuel Mollon\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Manuel Mollon\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 .002 .001 1n
.lib C:\Users\Manuel Mollon\Dropbox\potencia\TP1\Ejercicio3\irf530n.lib
.backanno
.end
