* C:\potencia\TP1\Ejercicio1\Ejercicio1.asc
L1 N002 D 200µ
D1 D N001 MUR460
R1 G GG 100
R2 N002 N001 1
V2 N001 0 12
V1 GG 0 PULSE(0 12 0 1n 1n 10u 20u)
M1 D G 0 0 IRF530
.model D D
.lib C:\Users\joa-m\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\joa-m\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 0.002 0.001 1n
.backanno
.end
