* C:\Users\malen\Desktop\ITBA\POTENCIA\potencia\TP2\Parte 3\Simulacion.asc
V1 V1 0 12
R1 0 Vo 5
C1 Vo 0 47µ V=100 Irms=35m Rser=1.22436 Lser=2.28242n
XU1 V1 N003 0 secu NC_01 NC_02 750313974_Linear
D1 secu Vo 1N5819
D2 sw N005 MURS120
R2 N005 sw 100
C2 N005 0 1n
M1 sw Pwm 0 0 IRF530
XU2 Vo N001 NC_03 Osc N004 N006 N004 N008 N009 0 N007 0 N002 NC_04 N002 NC_05 sg3525a
V3 N002 0 12
R3 N006 0 3.7k
C4 N004 0 1n
C5 N008 0 1µ
V4 N001 0 0.8
R4 N001 0 1k
R5 0 Vo 1k
R6 N009 N010 10k
C6 N010 Vo 10n
R7 Pwm N007 100
C7 N002 0 100n
C8 N009 Vo 10n
C3 Vo 0 47µ V=100 Irms=35m Rser=1.22436 Lser=2.28242n
R8 N003 sw 0.001
.model D D
.lib C:\Users\malen\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\malen\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.mos
.tran 1 2m 1m 5n startup
* Modelos de terceros
.inc SG3525A.sub
.lib 750313974_Wurth_Electronics_Midcom.lib
.backanno
.end
